US06762321B2
2.40 g (4.73 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide, 1.20 g (7.09 mmol) of 48% hydrobromic acid and 30 ml of acetic acid were mixed and stirred at 80° C. for 2 hours. Water was added to to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1) to give 1.81 g of 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (the present compound 1371).

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 4.73 mmol, 2.40 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=COC(F)F)C1=CC=2CCCCC2C=C1)=O)OC | C30H31F2NO4
reactant | hydrobromic acid | 7.09 mmol, 1.20 g | Br | BrH
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 1.81 g | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)O)OC)C1=CC=2CCCCC2C=C1)F | C23H25F2NO4
